US04920116
N1, N1 -Diethyl-2-(3,4,5-trimethoxyphenyl)-1,2-ethanediamine
In a manner similar to Preparation 21 react 2-diethylamino-1-(3,4,5-trimethoxyphenyl)ethanone with ammonium acetate and NaCNBH3 to obtain the title compound.

reactant | 2-diethylamino-1-(3,4,5-trimethoxyphenyl)ethanone | C(C)N(CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)CC | C15H23NO4
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
product | N1, N1 -Diethyl-2-(3,4,5-trimethoxyphenyl)-1,2-ethanediamine | C(C)N(CC(N)C1=CC(=C(C(=C1)OC)OC)OC)CC | C15H26N2O3
